US08012998B2
c) 2-{(S)-1-[(3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine (XI-B-7)
To a suspension of PPh3 (PPh3 polymer bound, 3 mmol PPh3/g resin) (1.78 g, 6.79 mmol) in THF (20 mL) at 0° C. were added 5-chloro-pyridin-2-ol (0.60 g, 4.63 mmol) and then DBAD (1.14 g, 4.95 mmol). After 5 minutes was added (R)-1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (0.98 g, 3.09 mmol). The reaction mixture was stirred over night at RT, filtered on celite and concentrated under vacuo. Extraction with EtOAc/aq.NaOH 1M, followed by column chromatography (SiO2, EtOAc/H, 1:3) yielded 0.917 g (69%) of the title compound as a colorless oil. ES-MS m/e: 429.2 (M+H+).

reactant | PPh3 | 3 mmol, 1.78 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-chloro-pyridin-2-ol | 4.63 mmol, 0.60 g | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | DBAD | 4.95 mmol, 1.14 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | (R)-1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol | 3.09 mmol, 0.98 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)[C@@H](C)O | C19H21F2NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-{(S)-1-[(3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine | 0.917 g, 69% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)[C@H](C)OC1=NC=C(C=C1)Cl | C24H23ClF2N2O
